US05013829
A solution of trifluoromethylzinc bromide (1.308 g, 6.10 mmol) in DMF (25 mL) and HMPA (10 mL) was added to copper bromide (0.438 g, 3.05 mmol) and the resulting mixture was stirred for 30 min. 2-Iodoadenosine (0.800 g, 2.03 mmol) was added and the solution was warmed at 70° C. for 4 h. The solvents were evaporated and the residue was purified on silica gel with 10% methanol/chloroform to give 2-trifluoromethyladenosine in 63% yield. 2-Trifluoromethyladenosine was converted to IV by using in sequence the following procedures: Procedure A (58% yield), Procedure B (84% yield), Procedure C (51% yield), Procedure D (73% yield), Procedure E (75% yield), and Procedure F (53% yield): mp 173°-175° C.; 13NMR (Me2SO-d6) δ25.7, 31.8, 62.8, 82.1, 84.5, 119.8, 141.1, 148.3, 156.2; 1H NMR (Me2SO-d6) δ2.10 (m, 2 H), 2.40 (m, 2H), 3.51 (m, 2H), 4.13 (m, 1H), 4.88 (m, 1H), 6.25 (m, 1H), 7.85 (br.s, 2H), 8.54 (s, 1H); UV (H2O) λmax 259.5 nm (λ11300); FAB HRMS obsd (M+ +H) 304.0996, calcd for C11H12F3N5O2 304.1021.

reactant | trifluoromethylzinc bromide | 6.10 mmol, 1.308 g | [Br-].FC(F)(F)[Zn+]
reactant | 2-Iodoadenosine | 2.03 mmol, 0.800 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | HMPA | 10 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
catalyst | copper bromide | 3.05 mmol, 0.438 g | [Cu](Br)Br
product | 2-trifluoromethyladenosine | 63% yield | FC(C=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N)(F)F | C11H12F3N5O4
